### PR TITLE
feat: add Erdős Problem 888

### PR DESCRIPTION
**Pull request by triangular2357**
Adds formalization of Erdős Problem 888

Erdős Problem 888: What is the size of the largest $A\subseteq \{1,\ldots,n\}$ such that if $a\leq b\leq c\leq d\in A$ are such that $abcd$ is a square then $ad=bc$?
see [https://www.erdosproblems.com/888](https://www.erdosproblems.com/888)
I wasn't quite sure if the bottom two theorems should be classified as solved or open.

Closes https://github.com/google-deepmind/formal-conjectures/issues/1005

### CODE REVIEW

File: FormalConjectures/ErdosProblems/888.lean [hunk 1]
```diff
@@ -0,0 +1,51 @@
...
+namespace Erdos888
+
+
+/-- Let `A` be a subset of `{1,...,n}` such that
+if `a ≤ b ≤ c ≤ d ∈ A` and `abcd` square then `ad=bc` -/
+def RequiredCondition (A : Finset ℕ) (n:ℕ ) :Prop :=
+  ∀a ∈ A,0<a ∧ a≤n ∧
+  ∀a ∈ A,∀b ∈ A,∀c ∈ A,∀d ∈ A, a ≤ b ∧ b ≤ c ∧ c ≤ d ∧ IsSquare (a*b*c*d) → a*d=b*c
+
+def p (n:ℕ) (k:ℕ):Prop := ∃A: Finset ℕ, RequiredCondition A n ∧ A.card = k
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
def p (n : ℕ) (k : ℕ) : Prop := ∃ A: Finset ℕ, RequiredCondition A n ∧ A.card = k
```
Generally there are spaces missing like here, could you fix this elsewhere as well?

File: FormalConjectures/ErdosProblems/888.lean [hunk 2]
```diff
@@ -0,0 +1,51 @@
...
+open Classical
+
+namespace Erdos888
+
+
+/-- Let `A` be a subset of `{1,...,n}` such that
+if `a ≤ b ≤ c ≤ d ∈ A` and `abcd` square then `ad=bc` -/
+def RequiredCondition (A : Finset ℕ) (n:ℕ ) :Prop :=
+  ∀a ∈ A,0<a ∧ a≤n ∧
+  ∀a ∈ A,∀b ∈ A,∀c ∈ A,∀d ∈ A, a ≤ b ∧ b ≤ c ∧ c ≤ d ∧ IsSquare (a*b*c*d) → a*d=b*c
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
def RequiredCondition (A : Finset ℕ) (n : ℕ) : Prop :=
  A ⊆ Finset.Ioc 0 n ∧ ∀ᵉ (a ∈ A) (b ∈ A) (c ∈ A) (d ∈ A),
  a ≤ b → b ≤ c → c ≤ d → IsSquare (a * b * c * d) → a * d = b * c
```
Formatting.

File: FormalConjectures/ErdosProblems/888.lean [hunk 3]
```diff
@@ -0,0 +1,51 @@
...
+*Reference:* [erdosproblems.com/888](https://www.erdosproblems.com/888)
+-/
+
+open Classical
+
+namespace Erdos888
+
+
+/-- Let `A` be a subset of `{1,...,n}` such that
+if `a ≤ b ≤ c ≤ d ∈ A` and `abcd` square then `ad=bc` -/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
/-- Condition on the sets `A` appearing in Erdős 888. Namely, `A` be a subset of
`{1,...,n}` such that if `a ≤ b ≤ c ≤ d ∈ A` and `abcd` square then `ad=bc` -/
```

File: FormalConjectures/ErdosProblems/888.lean (hunk 1 above)
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]: This definition should also have a docstring above (all definition should have one)

File: FormalConjectures/ErdosProblems/888.lean [hunk 4]
```diff
@@ -0,0 +1,51 @@
...
+def RequiredCondition (A : Finset ℕ) (n:ℕ ) :Prop :=
+  ∀a ∈ A,0<a ∧ a≤n ∧
+  ∀a ∈ A,∀b ∈ A,∀c ∈ A,∀d ∈ A, a ≤ b ∧ b ≤ c ∧ c ≤ d ∧ IsSquare (a*b*c*d) → a*d=b*c
+
+def p (n:ℕ) (k:ℕ):Prop := ∃A: Finset ℕ, RequiredCondition A n ∧ A.card = k
+
+
+@[category research open, AMS 11]
+theorem erdos_888 : ∀n, Nat.findGreatest (p n) n = (answer(sorry): ℕ → ℕ)  n := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]: Please add a docstring here with the problem statement as well.

**Review by callesonne — COMMENTED** [review]
Thanks for the contribution! Here are some comments, but mathematically it looks good. I think its fine to leave the final two problems as solved.

File: FormalConjectures/ErdosProblems/888.lean (hunk 1 above)
Comment (triangular2357) [reply FormalConjectures/ErdosProblems/888.lean]: I hope I added spaces everywhere, if not please let me know

File: FormalConjectures/ErdosProblems/888.lean [hunk 5]
```diff
@@ -0,0 +1,55 @@
...
+
+
+/-- Condition on the sets `A` appearing in Erdős 888. Namely, `A` be a subset of
+`{1,...,n}` such that if `a ≤ b ≤ c ≤ d ∈ A` and `abcd` square then `ad=bc` -/
+def RequiredCondition (A : Finset ℕ) (n : ℕ) : Prop :=
+  A ⊆ Finset.Ioc 0 n ∧ ∀ᵉ (a ∈ A) (b ∈ A) (c ∈ A) (d ∈ A),
+  a ≤ b → b ≤ c → c ≤ d → IsSquare (a * b * c * d) → a * d = b * c
+
+/-- Proposition that for a specific `n` an `A` with the above defined condition
+and cardinality `k` exists-/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
and cardinality `k` exists. -/
```

File: FormalConjectures/ErdosProblems/888.lean [hunk 6]
```diff
@@ -0,0 +1,55 @@
...
+*Reference:* [erdosproblems.com/888](https://www.erdosproblems.com/888)
+-/
+
+open Classical
+
+namespace Erdos888
+
+
+/-- Condition on the sets `A` appearing in Erdős 888. Namely, `A` be a subset of
+`{1,...,n}` such that if `a ≤ b ≤ c ≤ d ∈ A` and `abcd` square then `ad=bc` -/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
/-- Condition on the sets `A` appearing in Erdős 888. Namely, let `A` be a subset
of `{1,...,n}` such that if `a ≤ b ≤ c ≤ d ∈ A` and `abcd` square then `ad=bc`. -/
```
This one was my bad.

File: FormalConjectures/ErdosProblems/888.lean [hunk 7]
```diff
@@ -0,0 +1,55 @@
...
+
+/-- Proposition that for a specific `n` an `A` with the above defined condition
+and cardinality `k` exists-/
+def p (n : ℕ) (k : ℕ) : Prop := ∃ A : Finset ℕ, RequiredCondition A n ∧ A.card = k
+
+
+/-- What is the size of the largest subset `A` of `{1,...,n}` such that if
+`a ≤ b ≤ c ≤ d ∈ A` and `abcd` square then `ad=bc` -/
+@[category research open, AMS 11]
+theorem erdos_888 : ∀ n, Nat.findGreatest (p n) n = (answer(sorry) : ℕ → ℕ)  n := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
theorem erdos_888 : ∀ n, Nat.findGreatest (p n) n = (answer(sorry) : ℕ → ℕ) n := by
```

File: FormalConjectures/ErdosProblems/888.lean [hunk 8]
```diff
@@ -0,0 +1,55 @@
...
+  sorry
+
+/--`|A|=o(n)`-/
+@[category research solved, AMS 11]
+theorem erdos_888_Sárközy : ∃ c : ℝ, c > 0 ∧ ∀ n : ℕ , Nat.findGreatest (p n) n ≥  n * c := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
theorem erdos_888_Sárközy : (fun n ↦ (Nat.findGreatest (p n) n : ℝ)) =o[atTop] (Nat.cast : ℕ → ℝ) := by
```
I think this was not correct, littleO requires the constant to be arbitrarily small as `n` tends to infinity (for this you need to open Filter at the top of the file see my other suggestion..

File: FormalConjectures/ErdosProblems/888.lean [hunk 9]
```diff
@@ -0,0 +1,55 @@
...
+def p (n : ℕ) (k : ℕ) : Prop := ∃ A : Finset ℕ, RequiredCondition A n ∧ A.card = k
+
+
+/-- What is the size of the largest subset `A` of `{1,...,n}` such that if
+`a ≤ b ≤ c ≤ d ∈ A` and `abcd` square then `ad=bc` -/
+@[category research open, AMS 11]
+theorem erdos_888 : ∀ n, Nat.findGreatest (p n) n = (answer(sorry) : ℕ → ℕ)  n := by
+  sorry
+
+/--`|A|=o(n)`-/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
/--`|A|=o(n)`. -/
```

File: FormalConjectures/ErdosProblems/888.lean [hunk 10]
```diff
@@ -0,0 +1,55 @@
...
+@[category research solved, AMS 11]
+theorem erdos_888_Sárközy : ∃ c : ℝ, c > 0 ∧ ∀ n : ℕ , Nat.findGreatest (p n) n ≥  n * c := by
+  sorry
+
+/--The primes show that `|A| ≫ n/log n` is possible.-/
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
/-- The primes show that `|A| ≫ n/log n` is possible. -/
```

File: FormalConjectures/ErdosProblems/888.lean [hunk 11]
```diff
@@ -0,0 +1,55 @@
...
+@[category research solved, AMS 11]
+theorem erdos_888_primes : (fun n : ℕ  ↦   ↑(Nat.findGreatest (p n) n : ℝ )) ≫ (fun n : ℕ  ↦ ↑n / (↑n : ℝ).log)  := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
theorem erdos_888_primes : (fun n : ℕ  ↦ (Nat.findGreatest (p n) n : ℝ )) ≫ (fun n : ℕ  ↦ n / (n : ℝ).log)  := by
```
Fixed spaces here, also the arrows don't need to be added as they will be inferred anyways.

File: FormalConjectures/ErdosProblems/888.lean [hunk 12]
```diff
@@ -0,0 +1,55 @@
...
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 888
+
+*Reference:* [erdosproblems.com/888](https://www.erdosproblems.com/888)
+-/
+
+open Classical
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
open Classical Filter
```
To make another suggestion below possible.

**Review by callesonne — COMMENTED** [review]
Thanks again! I think after this it should be ready to go :)

File: FormalConjectures/ErdosProblems/888.lean [hunk 13]
```diff
@@ -0,0 +1,55 @@
...
+  sorry
+
+/--`|A|=o(n)`. -/
+@[category research solved, AMS 11]
+theorem erdos_888_Sárközy : (fun n ↦ (Nat.findGreatest (p n) n : ℝ)) =o[atTop] (Nat.cast : ℕ → ℝ) := by
+  sorry
+
+/-- The primes show that `|A| ≫ n/log n` is possible. -/
+@[category research solved, AMS 11]
+theorem erdos_888_primes : (fun n : ℕ  ↦ (Nat.findGreatest (p n) n : ℝ )) ≫ (fun n : ℕ  ↦ n / (n : ℝ).log)  := by
```
Comment (callesonne) [inline FormalConjectures/ErdosProblems/888.lean]:
```suggestion
theorem erdos_888_primes : (fun n : ℕ ↦ (Nat.findGreatest (p n) n : ℝ )) ≫ (fun n : ℕ ↦ n / (n : ℝ).log)  := by
```
Extra whitespace here as well. Think this was the last one.
